US06339045B1
Production of N-phenyl-4-dimethylamino-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-24)
1.4 g (0.0071×1.2 mol) of 3-(trifluoromethyl) phenol was dissolved in about 20 ml of DMF. The solution was further mixed with 0.30 g (ca. 60% in mineral oil; 0.0071-1.06 mol) of NaH and then with 2.00 g (0.0071 mol) of 2,6-dibromo-4-dimethylamino pyridine. After treating the solution under reflux for about 6 hours, the resultant solution was allowed to stand for cooling to room temperature. After the reaction solution was distributed in hexane-saturated sodium bicarbonate water, the organic phase of the obtained solution was washed with saturated brine and dried with anhydrous sodium sulfate, followed by concentration thereof. Thereafter, the concentrated solution was purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane) and the obtained eluate was subjected to recrystallization using hexane, thereby obtaining an aimed product.

reactant | 3-(trifluoromethyl) phenol | 1.2 mol, 1.4 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | NaH | 0.0071-1.06 mol, 0.30 g | [H-].[Na+]
reactant | 2,6-dibromo-4-dimethylamino pyridine | 0.0071 mol, 2.00 g | BrC1=NC(=CC(=C1)N(C)C)Br | C7H8Br2N2
reactant | DMF | about 20 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | N-phenyl-4-dimethylamino-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | C1(=CC=CC=C1)NC(=O)C1=NC(=CC(=C1)N(C)C)OC1=CC(=CC=C1)C(F)(F)F | C21H18F3N3O2
